US06489321B1
2-(2-Hydroxyethyl)-5-[2-chloro-4-(2-methyl-5-fluorobenzoylamino)benzoyl]-1,5-benzothiazepine (Compound 43)
A mixture of 2-(2-hydroxyethyl)-1,5-benzothiazepine as prepared in Example 2 (0.070 g, 0.34 mM) and N,O-bis(tri-methylsilyl)acetamide (0.15 ml, 0.67 mM)was treated as described in Example 3 with 2-Chloro-4-(2-methyl-5-fluorobenzoylamino)benzoyl chloride (0.11 g, 0.32 mM) substituted for 4-(2-phenylbenzoylamino)benzoyl chloride to give the product as a white solid. m/z (MH+) 500.

reactant | 2-(2-hydroxyethyl)-1,5-benzothiazepine | OCCC=1SC2=C(N=CC1)C=CC=C2 | C11H11NOS
reactant | 2-Chloro-4-(2-methyl-5-fluorobenzoylamino)benzoyl chloride | 0.32 mM, 0.11 g | ClC1=C(C(=O)Cl)C=CC(=C1)NC(C1=C(C=CC(=C1)F)C)=O | C15H10Cl2FNO2
reactant | 4-(2-phenylbenzoylamino)benzoyl chloride | C1(=CC=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C20H14ClNO2
product | 2-(2-Hydroxyethyl)-5-[2-chloro-4-(2-methyl-5-fluorobenzoylamino)benzoyl]-1,5-benzothiazepine | OCCC1SC2=C(N(C=C1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC(=C1)F)C)=O)Cl)=O)C=CC=C2 | C26H22ClFN2O3S
